US07012077B2
A solution of 323 mg (corresponding to 0.49 mmol) of trans-Methanesulfonic acid 3-(4-{[(5-bromo-pyrimidin-2-yl)-methyl-amino]-methyl}-cyclohexyl)-prop-2-ynyl ester in 5 ml of methanol was cooled (0° C.), treated with a catalytic amount of NaI, 0.88 ml (4.94 mmol) of Dimethylamine (33% in EtOH 5.6M) and stirred for 16 h at RT. The solvent was evaporated and the residue extracted with aqueous saturated NaHCO3/Et2O (3×). The organic phase was dried with Na2SO4, filtered and evaporated. Purification by flash column chromatography on silica gel (CH2Cl2/MeOH 40:1) gave 137 mg (76%) of pure trans-(5-Bromo-pyrimidin-2-yl)-[4-(3-dimethylamino-prop-1-ynyl)-cyclohexylmethyl]-methyl-amine, mp: 71–72° C.; MS: 365 (MH+, 1Br).

reactant | trans-Methanesulfonic acid 3-(4-{[(5-bromo-pyrimidin-2-yl)-methyl-amino]-methyl}-cyclohexyl)-prop-2-ynyl ester | 0.49 mmol, 323 mg | BrC=1C=NC(=NC1)N(C)C[C@@H]1CC[C@H](CC1)C#CCOS(=O)(=O)C | C16H22BrN3O3S
reactant | NaI | [Na+].[I-]
reactant | Dimethylamine | 4.94 mmol, 5.6M, 0.88 ml | CNC | C2H7N
solvent | methanol | 5 ml | CO | CH4O
product | trans-(5-Bromo-pyrimidin-2-yl)-[4-(3-dimethylamino-prop-1-ynyl)-cyclohexylmethyl]-methyl-amine | 137 mg, 76% | BrC=1C=NC(=NC1)N(C)C[C@@H]1CC[C@H](CC1)C#CCN(C)C | C17H25BrN4
